US07429609B2
1H-Pyrazolo[4,3-c]pyridine
To a solution of 6.44 g of 1-pyrazolo[4,3-c]pyridin-1-yl-ethanone in 120 mL of ethanol, 10 mL of 5N sodium hydroxide aqueous solution was added at room temperature and stirred at this temperature for 30 minutes. After neutralization with 5N hydrochloric acid, the solvent was evaporated, the residue was washed with ethyl acetate, and the solvent of filtrate was evaporated, to afford 3.88 g of the title compound as pale yellow crystals.

reactant | 1-pyrazolo[4,3-c]pyridin-1-yl-ethanone | 6.44 g | N1(N=CC=2C=NC=CC21)C(C)=O | C8H7N3O
solvent | ethanol | 120 mL | C(C)O | C2H6O
solvent | sodium hydroxide | 5N, 10 mL | [OH-].[Na+]
product | 1H-Pyrazolo[4,3-c]pyridine | 3.88 g | N1N=CC=2C=NC=CC21 | C6H5N3
